* Z:\home\violet\projects\wpi\NVM-MQP\spice\2N3819_circuit.asc
* Generated by LTspice 24.1.10 for Windows.
J1 N004 N003 output 2N3819
V2 N002 0 AC 1 0
C1 N003 N002 47µf
R1 N004 N005 1.1k
R2 N003 0 1Meg
V1 N001 0 9
R3 N001 output 4.3k
V3 0 N005 9V
.model NJF NJF
.model PJF PJF
.lib C:\users\violet\AppData\Local\LTspice\lib\cmp\standard.jft
.ac dec 20 20 20000
.backanno
.end
